US04154834
5-(2-Thienylmethyl)-2-thiouracil (4.5 g) was warmed at 65° with a mixture of methyl iodide (2.8 g), sodium hydroxide (0.8 g), water (75 ml) and ethanol (150 ml) to give 5-(2-thienylmethyl)-2-methylthio-4-pyrimidone (89%) m.p. 170.5°-171.5° (ethanol).

reactant | 5-(2-Thienylmethyl)-2-thiouracil | 4.5 g | S1C(=CC=C1)CC=1C(NC(NC1)=S)=O | C9H8N2OS2
reactant | methyl iodide | 2.8 g | CI | CH3I
reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
reactant | water | 75 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-(2-thienylmethyl)-2-methylthio-4-pyrimidone | 89% | S1C(=CC=C1)CC=1C(NC(=NC1)SC)=O | C10H10N2OS2
